US04022833
A solution of N,N'-(1,6-hexylene-bis[2-hydroxyundecylamine] (5 g.), glycolic acid (1.66 g.) and methanol was heated until the solids dissolved, then evaporated to dryness. Recrystallization of the solid from acetone afforded N,N'-(1,6-hexylene)-bis[2-hydroxyundecylamine] diglycolate (4.6 g., m.p. 88.2°-94.6° C.). In a similar manner using acetic acid and lactic acid instead of glycolic acid there were obtained, respectively, N,N'-(1,6-hexylene)-bis[2-hydroxyundecylamine] diacetate (m.p. 113°-120.6° C.) and N,N'-(1,6-hexylene)-bis[2-hydroxyundecylamine] dilactate (m.p. 102.0°-104.0° C.).

reactant | 1,6-hexylene-bis[2-hydroxyundecylamine] | 5 g | C(CCCCCNCC(CCCCCCCCC)O)NCC(CCCCCCCCC)O | C28H60N2O2
reactant | glycolic acid | 1.66 g | C(CO)(=O)O | C2H4O3
reactant | methanol | CO | CH4O
product | N,N'-(1,6-hexylene)-bis[2-hydroxyundecylamine] diglycolate | 4.6 g | C(COCC(=O)O)(=O)O.C(CCCCCNCC(CCCCCCCCC)O)NCC(CCCCCCCCC)O | InChI=1S/C28H60N2O2.C4H6O5/c1-3-5-7-9-11-13-17-21-27(31)25-29-23-19-15-16-20-24-30-26-28(32)22-18-14-12-10-8-6-4-2;5-3(6)1-9-2-4(7)8/h27-32H,3-26H2,1-2H3;1-2H2,(H,5,6)(H,7,8)
